US08871756B2
2,2′-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]imino}diethanol
The title compound was prepared in analogy to Example 11-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 2,2′-iminodiethanol. MS obsd. (ESI+) [(M+H)+] 442, 1H NMR (400 MHz, CD3OD) δ ppm 7.99 (dd, J=7.83, 1.26 Hz, 1 H), 7.81 (s, 1 H), 7.83 (s, 1 H), 7.63 (td, J=7.58, 1.26 Hz, 1 H), 7.56-7.39 (m, 2 H), 7.30 (dd, J=8.46, 1.89 Hz, 1 H), 6.78 (s, 1 H), 5.18 (s, 2 H), 4.57 (brs, 2 H), 3.73-3.56 (m, 6 H), 3.56-3.43 (m, 4 H), 2.42 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2,2′-iminodiethanol | N(CCO)CCO | C4H11NO2
product | 2,2′-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]imino}diethanol | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N(CCO)CCO)C)=O | C23H27N3O4S
